US07071225B2
2-(1-hydroxy-naphthalen-2-yl)-1-methylethylamine hydrochloride
A solution of 2-(1-methoxy-naphthalen-2-yl)-1-methylethylamine hydrochloride (0.1 g, 0.40 mmol) and HBr 48% was refluxed for 3 h. The reaction mixture was concentrated under vacuum, the residue was washed with hexane and ether and then collected by filtration: 1H NMR (DMSO-d) δ 1.14 (d, 3H, CH3), 2.86–3.11 (m, 2H, CH2), 3.47 (m, 1H, CH), 7.25 (d, 1H, Ar—H), 7.47 (m, 2H, Ar—H), 7.83 (m, 4H, 1Ar—H+NH3+); 8.24 (m, 1H, Ar—H), 9.36 (s, OH); MS 202 (M+1). Analysis. Calcd. for C13H15NO.HBr.0.5 H2O: C, 53.62; H, 5.88; N, 4.81. Found: C, 53.53; H, 5.56; N, 4.77.

reactant | 2-(1-methoxy-naphthalen-2-yl)-1-methylethylamine hydrochloride | 0.40 mmol, 0.1 g | Cl.COC1=C(C=CC2=CC=CC=C12)CC(C)N
reactant | HBr | Br | BrH
product | 2-(1-hydroxy-naphthalen-2-yl)-1-methylethylamine hydrochloride | Cl.OC1=C(C=CC2=CC=CC=C12)CC(C)N | InChI=1S/C13H15NO.ClH/c1-9(14)8-11-7-6-10-4-2-3-5-12(10)13(11)15;/h2-7,9,15H,8,14H2,1H3;1H
